US07915281B2
An aqueous solution (200 mL) of potassium carbonate (55.3 g, 400 mmol) and sodium dithionate (62.7 g, 360 mmol) was added dropwise over 30 minutes to a mixture of N-allyl-2-chloro-3-nitroquinolin-4-amine (21.0 g, 79.9 mmol) and ethyl viologen dibromide (1.80 g, 4.80 mmol) in dichloromethane (320 mL) and water (40 mL) under a nitrogen atmosphere. The dark blue-green mixture was stirred rapidly and was heated at reflux overnight. The mixture was transferred to a separatory funnel and the layers were separated. The aqueous layer was extracted with dichloromethane. The combined organic layers were filtered through CELITE filter agent, dried over magnesium sulfate, filtered, and concentrated to a dark oil. The crude product was purified by suction filter chromatography (silica gel, gradient elution from 3:1 to 1:3 hexanes/ethyl acetate, then 4:1 dichloromethane/ethyl acetate) to afford pure product N4-allyl-2-chloroquinoline-3,4-diamine (12.06 g) along with some impure product (3.10 g).

reactant | potassium carbonate | 400 mmol, 200 mL, 55.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium dithionate | 360 mmol, 62.7 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | N-allyl-2-chloro-3-nitroquinolin-4-amine | 79.9 mmol, 21.0 g | C(C=C)NC1=C(C(=NC2=CC=CC=C12)Cl)[N+](=O)[O-] | C12H10ClN3O2
solvent | dichloromethane | 320 mL | ClCCl | CH2Cl2
solvent | water | 40 mL | O | H2O
catalyst | ethyl viologen dibromide | 4.80 mmol, 1.80 g | CC[N+]1=CC=C(C=C1)C2=CC=[N+](C=C2)CC.[Br-].[Br-]
product | N4-allyl-2-chloroquinoline-3,4-diamine | 12.06 g | C(C=C)NC1=C(C(=NC2=CC=CC=C12)Cl)N | C12H12ClN3
